US04963590
2-(3,4-Dihydroxy-5-nitrobenzyl)pyrrole
A solution containing 1.0 g of 3,4-dihydroxy-5-nitrobenzylalcohol and 5.0 ml of pyrrole in 3.0 ml of dioxane was heated for 5 h at 100° C. Water was added and the solution was extracted with dichloromethane. The solvent was evaporated and the residue was purified in a silicagel column using toluene-acetic acid-dioxane (18:1:1) mixture as an eluent. Yield 0.42 g (33%), m.p. 115°-118° C.

reactant | 3,4-dihydroxy-5-nitrobenzylalcohol | 1.0 g | OC=1C=C(CO)C=C(C1O)[N+](=O)[O-] | C7H7NO5
reactant | pyrrole | 5.0 ml | N1C=CC=C1 | C4H5N
reactant | Water | O | H2O
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | 2-(3,4-Dihydroxy-5-nitrobenzyl)pyrrole | OC=1C=C(CC=2NC=CC2)C=C(C1O)[N+](=O)[O-] | C11H10N2O4
